US05455252
2-bromo-4-ethylaniline and glycerol can be combined to form 6-ethyl-8-bromoquinoline,

reactant | 2-bromo-4-ethylaniline | BrC1=C(N)C=CC(=C1)CC | C8H10BrN
reactant | glycerol | OCC(O)CO | C3H8O3
product | 6-ethyl-8-bromoquinoline | C(C)C=1C=C2C=CC=NC2=C(C1)Br | C11H10BrN
